US08859768B2
A mixture of 5-(2-chlorophenyl)-2-iodo-1,3-oxazole-4-carboxamide (0.051 g, 0.14 mmol), N-[5-methyl-4-(trimethylstannyl)pyridine-2-yl]cyclopropanecarboxamide (0.064 g, 0.19 mmol), tetrakis(triphenylphosphine)palladium(0) (0.008 g, 0.007 mmol), copper(I) iodide (0.008 g, 0.043 mmol), and lithium chloride (0.018 g, 0.43 mmol) in 1,4-dioxane (1.5 mL) was degassed with argon three times and then allowed to stir at 100° C. under an atmosphere of argon for 5 h. The reaction mixture was filtered while hot and the filtrate was concentrated. The residue was purified by column chromatography to give 5-(2-chlorophenyl)-2-{2-[(cyclopropylcarbonyl)amino]-5-methylpyridin-4-yl}-1,3-oxazole-4-carboxamide (Compound I-86) (0.036 g, 62%). LCMS (AA): m/z=397 (M+H).

reactant | 5-(2-chlorophenyl)-2-iodo-1,3-oxazole-4-carboxamide | 0.14 mmol, 0.051 g | ClC1=C(C=CC=C1)C1=C(N=C(O1)I)C(=O)N | C10H6ClIN2O2
reactant | N-[5-methyl-4-(trimethylstannyl)pyridine-2-yl]cyclopropanecarboxamide | 0.19 mmol, 0.064 g | CC=1C(=CC(=NC1)NC(=O)C1CC1)[Sn](C)(C)C
reactant | lithium chloride | 0.43 mmol, 0.018 g | [Cl-].[Li+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.007 mmol, 0.008 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.043 mmol, 0.008 g | [Cu]I
product | 5-(2-chlorophenyl)-2-{2-[(cyclopropylcarbonyl)amino]-5-methylpyridin-4-yl}-1,3-oxazole-4-carboxamide | 0.036 g, 62% | ClC1=C(C=CC=C1)C1=C(N=C(O1)C1=CC(=NC=C1C)NC(=O)C1CC1)C(=O)N | C20H17ClN4O3
